US07629351B2
To a solution of TiCl4 (1M in dichloromethane, 36 ml, 36 mmol) in dichloromethane (30 ml) at 0° C. was added Ti(OiPr)4 (10.8 ml, 36 mmol). The mixture was then stirred at room temperature for 10 min. To a solution of benzyl (S)-1-((1S,2R)-2-acetamido-4-oxocyclohexyl)-2-oxopyrrolidin-3-ylcarbamate (23.25 g, 60 mmol) in dichloromethane (600 ml) was added tert-butylamine (30 ml, 300 mmol) at room temperature, followed by the addition of the TiCl4/Ti(OiPr)4 solution at −50° C. The reaction was allowed to warm slowly to room temperature. The reaction was finished after 2 h (The reaction was monitored on HPLC by quenching an HPLC sample with NaBH4 in methanol). The solution was cooled to 10° C. and BH3.SMe2 (1M in dichloromethane, 66 ml, 66 mmol) was added. The mixture was stirred at room temperature for 5 then quenched with Na2CO3 aqueous solution (300 ml). The precipitate was filtered off. The two layers were separated and the aqueous layer was extracted with dichloromethane (600 ml). The combined dichloromethane layers were extracted with 1N HCl twice (150 ml and 15 ml). (The product and the undesired trans isomer were both in the acidic aqueous phase.) The combined acidic aqueous layers were neutralized with 12 M aqueous solution of NH4OH (12 ml) to pH-8 and extracted with dichloromethane twice (600 ml, 450 ml). (The product was in organic phase, while the trans isomer was still in aqueous layer.) The combined organic layers were washed with NH4Cl aqueous solution 3 times (3×200 ml) until there was no trans isomer left in organic layer. The organic layer was dried over Na2SO4 and concentrated. The residue was purified by crystallization in EtOAc/Hexane(200 ml/800 ml) to give the desired benzyl (S)-1-((1S,2R,4R)-2-acetamido-4-(tert-butylamino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate (20.80 g, 78% yield) as a white solid with 99.5% purity. 1H-NMR (500 MHz, DMSO-d6) δ ppm 8.76 (s, 1H), 7.27-7.46 (m, 6H), 5.03 (m, 2H), 4.14 (m, 1 H), 4.07 (q, J=8.80 Hz, 1H), 3.83 (m, 1H), 3.36 (m, 2H), 2.91 (s, 1H), 2.18 (m, 1H), 2.04 (m, 1H), 1.78 (s, 3H), 1.41-1.74 (m, 7H), 1.04 (s, 9H). m/z: 445.54 [M+H].

reactant | benzyl (S)-1-((1S,2R)-2-acetamido-4-oxocyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | 60 mmol, 23.25 g | C(C)(=O)N[C@H]1[C@H](CCC(C1)=O)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O | C20H25N3O5
reactant | tert-butylamine | 300 mmol, 30 ml | C(C)(C)(C)N | C4H11N
reactant | SMe2 | 66 mmol, 1M, 66 ml | S(C)C | C2H6S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
catalyst | TiCl4 | 36 mmol, 1M, 36 ml | Cl[Ti](Cl)(Cl)Cl
catalyst | Ti(OiPr)4 | 36 mmol, 10.8 ml | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
catalyst | TiCl4 Ti(OiPr)4 | Cl[Ti](Cl)(Cl)Cl.CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | benzyl (S)-1-((1S,2R,4R)-2-acetamido-4-(tert-butylamino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | 20.80 g, 78% yield | C(C)(=O)N[C@H]1[C@H](CC[C@H](C1)NC(C)(C)C)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O | C24H36N4O4
